US06756374B2
To a solution of 3′,5′-difluoroacetophenone (3 g, 19.2 mmol) (Lancaster Synthesis) in dioxane (30 mL) was added dropwise a solution of bromine (3.67 g, 23 mmol) in dioxane (75 mL). After stirring for 10 minutes, the mixture was concentrated in vacuo and the residue was purified by flash chromatography, with 10:2 hexanes/dichloromethane as an eluant, to provide 2-bromo-1-(3,5-difluorophenyl)ethanone as a colorless oil (2.9 g, 64% yield).

reactant | 3′,5′-difluoroacetophenone | 19.2 mmol, 3 g | FC=1C=C(C=C(C1)F)C(C)=O | C8H6F2O
reactant | bromine | 23 mmol, 3.67 g | BrBr | Br2
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 75 mL | O1CCOCC1 | C4H8O2
product | 2-bromo-1-(3,5-difluorophenyl)ethanone | 2.9 g, 64% yield | BrCC(=O)C1=CC(=CC(=C1)F)F | C8H5BrF2O
